US07335687B2
In analogy to examples 29.10 and 29.11, trans-Methansulfonic acid 5-(4-methyl amino-cyclohexyl)-pentyl ester.Trifluoroacetic acid salt and 3,5-difluoro-phenyl chloroformate were reacted, followed by treatment with 2-ethylamino-ethanol to give trans-(4-{5-[Ethyl-(2-hydroxy-ethyl)-amino]-pentyl}-cyclohexyl)-methyl-carbamic acid 3,5-difluoro-phenyl ester, MS: 427 (MH+).

reactant | trans-Methansulfonic acid 5-(4-methyl amino-cyclohexyl)-pentyl ester | CN[C@@H]1CC[C@H](CC1)CCCCCOS(=O)(=O)C | C13H27NO3S
reactant | Trifluoroacetic acid | FC(C(=O)O)(F)F | C2HF3O2
reactant | 3,5-difluoro-phenyl chloroformate | ClC(=O)OC1=CC(=CC(=C1)F)F | C7H3ClF2O2
reactant | 2-ethylamino-ethanol | C(C)NCCO | C4H11NO
product | trans-(4-{5-[Ethyl-(2-hydroxy-ethyl)-amino]-pentyl}-cyclohexyl)-methyl-carbamic acid 3,5-difluoro-phenyl ester | FC=1C=C(C=C(C1)F)OC(N(C)[C@@H]1CC[C@H](CC1)CCCCCN(CCO)CC)=O | C23H36F2N2O3
